US07304074B2
To a solution of 6-methyl-[1,5]naphthyridine-3-carbonitrile (220.0 mg, 1.30 mmol) in 1,4-dioxane was added SeO2 (187.6 mg, 1.70 mmol) and the reaction mixture was refluxed for 2 hrs, when the TLC showed no starting material left, then cooled to room temperature and filtered through celite. The solid was washed with hot AcOEt and the filtrate was then concentrated to give 6-formyl-[1,5]naphthyridine-3-carbonitrile as a light yellow solid (238.1 mg, 100.0%). HR-MS-EI (+) m/e calcd for C10H5N3O (M+) 183.0433. found 183.0433

reactant | 6-methyl-[1,5]naphthyridine-3-carbonitrile | 1.30 mmol, 220.0 mg | CC=1N=C2C=C(C=NC2=CC1)C#N | C10H7N3
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 6-formyl-[1,5]naphthyridine-3-carbonitrile | 238.1 mg, 100.0% | C(=O)C=1N=C2C=C(C=NC2=CC1)C#N | C10H5N3O
